US09260375B2
2-Isopropyl-3-methylmaleic anhydride
The 2-hydroxy-2-isopropyl-3-methylsuccinic acid thus obtained was dissolved in acetic anhydride (30 mL), and stirred at 110° C. for 15 h. The acetic anhydride was evaporated under reduced pressure, and the residue thus obtained was subjected to silica gel column chromatography (hexane-ethyl acetate 19:1) to give 203 mg of the title compound as oil (yield: 40%).

reactant | 2-hydroxy-2-isopropyl-3-methylsuccinic acid | OC(C(=O)O)(C(C(=O)O)C)C(C)C | C8H14O5
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | acetic anhydride | 30 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 2-Isopropyl-3-methylmaleic anhydride | 203 mg, yield: 40% | C(C)(C)/C=1/C(=O)OC(\C1\C)=O | C8H10O3
